US09302989B2
N-[4-(1-isobutyryl-1,2,3,6-tetrahydropyridin-4-yl)phenyl]-1,3-dihydro-2H-pyrrolo[3,4-c]pyridine-2-carboxamide
The title compound was prepared as described in Example 278, substituting isobutyryl chloride for acetyl chloride and N-(4-(1,2,3,6-tetrahydropyridin-4-yl)phenyl)-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxamide for 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.61 (s, 1H), 8.50 (d, J=5.0 Hz, 1H), 8.46 (s, 1H), 7.54-7.57 (m, 2H), 7.43 (d, J=5.1 Hz, 1H), 7.34-7.38 (m, 2H), 6.10-6.13 (bs, 1H), 4.79-4.82 (m, 4H), 4.07-4.21 (m, 2H), 3.67-3.70 (m, 2H), 2.85-3.01 (m, 1H), 2.39-2.55 (m, 2H), 0.97-1.08 (m, 6H); MS (ESI(+)) m/e 391 (M+H)+.

reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | N-(4-(1,2,3,6-tetrahydropyridin-4-yl)phenyl)-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxamide | N1CCC(=CC1)C1=CC=C(C=C1)NC(=O)N1CC=2C=NC=CC2C1 | C19H20N4O
reactant | 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide | NC=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)C(NCCC)=O | C19H22N4O2
product | N-[4-(1-isobutyryl-1,2,3,6-tetrahydropyridin-4-yl)phenyl]-1,3-dihydro-2H-pyrrolo[3,4-c]pyridine-2-carboxamide | C(C(C)C)(=O)N1CCC(=CC1)C1=CC=C(C=C1)NC(=O)N1CC=2C=NC=CC2C1 | C23H26N4O2
